US06476029B1
2-Propoxybenzamidine hydrochloride
21.41 g (400 ml) of ammonium chloride are suspended in 400 ml of toluene and cooled to from 0 to 5° C. 200 ml of a 2M solution of triethylaluminium in hexane are added dropwise, and the mixture is stirred at room temperature until evolution of gas has ceased. 32.2 g (200 mmol) of 2-propoxybenzonitrile are added, and the reaction mixture is then stirred at 80° C. (bath) overnight. The cooled reaction mixture is, with ice-cooling, added to a suspension of 300 g of silica gel and 2.85 ml of ice-cold chloroform and stirred for 30 minutes. The mixture is filtered off with suction and the filter residue is washed with the same amount of methanol. The solvent is distilled off under reduced pressure, the residue is stirred with 500 ml of a mixture of dichloromethane and methanol (9:1), the solid is filtered off and the mother liquor is evaporated. The residue is stirred with petroleum ether and filtered off with suction. This gives 22.3 g (52%) of product. 200 MHz 1H-NMR (CD3OD): 1.05 (t, 3H); 1.85 (sex, 2H); 4.1 (t, 2H); 7.0-7.2 (m, 2H); 7.5-7.65 (m, 2H).

reactant | ammonium chloride | 400 ml, 21.41 g | [Cl-].[NH4+]
reactant | triethylaluminium | C(C)[Al](CC)CC
reactant | 2-propoxybenzonitrile | 200 mmol, 32.2 g | C(CC)OC1=C(C#N)C=CC=C1 | C10H11NO
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-Propoxybenzamidine hydrochloride | Cl.C(CC)OC1=C(C(=N)N)C=CC=C1 | InChI=1S/C10H14N2O.ClH/c1-2-7-13-9-6-4-3-5-8(9)10(11)12;/h3-6H,2,7H2,1H3,(H3,11,12);1H
